US07544812B2
3-{4-[2-(1-Benzyl-3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-butoxy-2-methyl-propionic acid ethyl ester:
Benzyl bromide (0.0.21 mL, 0.174 mmol, d=1.438) and tetrabutyl ammonium iodide (catalytic amount) are added to a 0° C. suspension of 2-butoxy-2-methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester (0.047 g, 0.116 mmol) and sodium hydride (0.012 g, 0.29 mmol, 60% suspension on mineral oil), pre-stirred for 1 h at ambient temperature. The reaction mixture is stirred at ambient temperature for 48 h, diluted with ethyl acetate, and washed with 1N HCl and water. The organic layer is dried, concentrated, and used in the next step. MS [EI+] 497 (M+H)+.

reactant | Benzyl bromide | 0.174 mmol | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-butoxy-2-methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester | 0.116 mmol, 0.047 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(NC1)=O)C)(C)OCCCC)=O | C22H34N2O5
reactant | sodium hydride | 0.29 mmol, 0.012 g | [H-].[Na+]
catalyst | tetrabutyl ammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{4-[2-(1-Benzyl-3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-butoxy-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=CC=C1)=O)C)(C)OCCCC)=O | C29H40N2O5
